US04985419
Chloroacetone (0.44 cc) and 4 A molecular sieve (1 g) are added to a solution of 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride (1.76 g) in dry ethanol (17 cc). The suspension is maintained under reflux for 20 hours. After cooling, the suspension is filtered and concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give a residue which is diluted in 1,2-dichloroethane (200 cc). The organic phase is washed with distilled water (3×100 cc) and then with saturated sodium chloride solution (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give a residue which is purified by chromatography on a column (height: 15 cm; diameter: 2.4 cm) of silica (0.04-0.06 mm), eluting with a 90:10 (by volume) mixture (800 cc) of 1,2-dichloroethane and methanol and collecting 50-cc fractions. The first 300 cc of eluate are discarded and fractions 4 to 10 are concentrated to dryness at 40° C. under reduced pressure (30 mm Hg; 4 kPa) to give 2-(4-methyl-2-imidazolyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine(0.33g) in the form of a golden yellow solid.

reactant | Chloroacetone | 0.44 cc | ClCC(C)=O | C3H5ClO
reactant | 10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamidine hydrochloride | 1.76 g | Cl.N1(CCCC1)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)N
solvent | ethanol | 17 cc | C(C)O | C2H6O
solvent | 1,2-dichloroethane | 200 cc | ClCCCl | C2H4Cl2
product | 2-(4-methyl-2-imidazolyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]phenothiazine | 0.33g | CC=1N=C(NC1)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C | C23H26N4S
